US05703089
A mixture of 1.0 g (2,5 mmol) of N-[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-N'-(2-aminoethyl)-1,3-propanediamine in 50 ml of toluene was treated with 0.62 g (2,5 mmol) of anthracene-1,9-dicarboxylic acid anhyride in 10 ml of toluene, refluxed for 6 hours, and cooled to room temperature. The solid was collected, dried in vacuo, and crystallized from toluene to give 0.8 g 48% of N,N'-Bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine. M.p. 191° C.

reactant | N-[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-N'-(2-aminoethyl)-1,3-propanediamine | 2,5 mmol, 1.0 g | O=C1N(C(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)CCNCCCNCCN | C23H26N4O2
reactant | anthracene-1,9-dicarboxylic acid | 2,5 mmol, 0.62 g | C1(=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)O)C(=O)O | C16H10O4
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-Bis[2-(1,2-dihydro-1,3-dioxo-3H-dibenz[de,h]isoquinolin-2-yl)ethyl]-1,3-propanediamine | 0.8 g, 48% | O=C1N(C(C2=C3C(C=C4C(=C13)C=CC=C4)=CC=C2)=O)CCNCCCNCCN2C(C4=C1C(=CC=3C4=C(C2=O)C=CC3)C=CC=C1)=O | C39H32N4O4
